US06340681B1
1-(1-Cyclopentylmethyl-4-piperidinyl)-2-(4-methylpiperazinyl)-1H-benzimidazole
The mixture of 1-(1-cyclopentylmethyl-4-piperidinyl)-1,3-dihydro-2H-benzimidazole-2-one(202 mg) and POCl3(5 ml) was heated at 120° C. for 2 h. After cooling down to room temperature, the reaction mixture was poured into NH4OH solution, and extracted with CH2Cl2. The extracts combined were washed with water, and dried (Na2SO4). After filtration, the filtrate was concentrated to give oil, which was purified by preparative TLC (1 mm thick plate×2, CH2Cl2/MeOH:15/1) to give 148 mg (69%) of 2-chloro-1-(1-cyclopentylmethyl-4-peridinyl)-1H-benzimidazole as colorless amorphous solid. To a solution of 2-chloro-1-(1-cyclopentylmethyl-4-piperidinyl)-1H-benzimidazole(148 mg, 0.466 mmol) in MeOH(5 ml) was added N-methylpiperazine(1 ml) and the resulting mixture was heated at 120° C. in a sealed tube for 2 days. After concentration, the residue was purified by preparative TLC (1 mm thick plate×2, CH2Cl2/MeOH:12/1, 2 developed) to give 161 mg of colorless amorphous solid. This was purified again by column chromatography(basic silica gel: 50 g; CH2Cl2/MeOH:200/1 to 50/1) to afford 52 mg (29%) of title compound as colorless amorphous solid.

reactant | 2-chloro-1-(1-cyclopentylmethyl-4-piperidinyl)-1H-benzimidazole | 0.466 mmol, 148 mg | ClC1=NC2=C(N1C1CCN(CC1)CC1CCCC1)C=CC=C2 | C18H24ClN3
reactant | N-methylpiperazine | 1 ml | CN1CCNCC1 | C5H12N2
solvent | MeOH | 5 ml | CO | CH4O
product | 1-(1-Cyclopentylmethyl-4-piperidinyl)-2-(4-methylpiperazinyl)-1H-benzimidazole | 161 mg | C1(CCCC1)CN1CCC(CC1)N1C(=NC2=C1C=CC=C2)N2CCN(CC2)C | C23H35N5
